Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Fluoride
 
Attending: ___.
 
Chief Complaint:
bleeding from ICD placement site.
 
Major Surgical or Invasive Procedure:
ICD placement

 
History of Present Illness:
Mr. ___ is an ___ year old man with h/o CAD, s/p CABG x5 in 
___, cardiomyopathy (recent EF 27%), who was admitted after ICD 
placement today. There was some bleeding after the procedure, so 
a pressure dressing was applied. The patient reports pain in his 
left upper chest from the procedure, but otherwise has no 
complaints. No shortness of breath, fevers, chills, weakness, 
n/v, c/d, dysuria.  
.  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: -Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
-CABG: x5 in ___  
-PACING/ICD: ICD placed today, ___  
3. OTHER PAST MEDICAL HISTORY:  
Severe neuropathy  
Prostate enlargement  
H. Pylori  

 
Social History:
___
Family History:
FAMILY HISTORY:  
Mother and sisters with CAD, MIs in ___.  

 
Physical Exam:
PHYSICAL EXAMINATION:  
VS: T 98.2 BP 129/73 P 66 RR 26 O2sat 93%RA  
GENERAL: WDWN man in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with no JVD  
CHEST: Left upper chest with pressure dressing in place, c/d/i, 
sling in place  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 12:00PM BLOOD WBC-7.4 RBC-4.67 Hgb-13.6* Hct-40.3 
MCV-86 MCH-29.1 MCHC-33.7 RDW-14.3 Plt ___
___ 12:00PM BLOOD ___
___ 12:00PM BLOOD Glucose-114* UreaN-17 Creat-1.0 Na-140 
K-4.5 Cl-103 HCO3-27 AnGap-15

IMAGING:

CXR ___:
REASON FOR EXAM: Assess leads and follow up left pneumothorax.  
Comparison is made to prior study performed 13 hours ago.   
Moderate cardiomegaly is stable. Left transvenous pacemaker 
leads terminate in standard position in the right atrium, right 
ventricle and through the coronary sinus. Moderate left 
pneumothorax has minimally increased in size. Biapical pleural 
thickening is unchanged. The right lung is grossly clear. There 
is no pleural effusion. Standard wires are aligned. Mild 
degenerative changes are in the thoracic spine.

CXR ___:
Moderate-to-large left pneumothorax is not accompanied by 
pleural effusion or mediastinal shift. Right lung shows 
hyperinflation, but is clear. No 
pulmonary edema. Transvenous right atrial and left ventricular 
pacer leads 
and right ventricular pacer defibrillator lead are in standard 
placements. 
Subsequent chest radiograph available at the time of this 
review, and showing an increase in the volume of pleural air. 

 
Brief Hospital Course:
Mr. ___ is an ___ year old man with h/o CAD, s/p CABG x5 in 
___, who was admitted after ICD placement today. Moderate PTX 
noted on post-procedure CXR.  
.  
#. PTX: Moderate PTX noted on post-procedure CXR with no 
cardiomediastinal shift. Pt is asymptomatic and has no SOB.  He 
was monitored overnight and there were no complications related 
to the Pneumothorax.  A repeat CXR showed improvement in the 
pneumothorax and was cleared for discharge, with close follow up 
as an outpatient.
.
# CORONARIES: Pt with known CAD, s/p CABG x5. No acute chest 
pain. Continued Imdur, Toprol, ASA, ACEi, statin during the 
course of her stay.  Pt was not having any chest pain, shortness 
of breath, diaphoresis.  
.  
# PUMP: No e/o acute fluid overload. s/p ICD placement today.  
Pt ICD site remained stable, there were no hematoma formation or 
discharge from the wound site.  Pt site was monitored overnight 
and there were no complications.
.  
Pt had no further episodes and was cleared for discharge.  She 
will be followed up in device clinic and with her PCP.
 
Medications on Admission:
Finasteride 5mg PO daily  
Gabapentin 900mg PO BID  
Isosorbide mononitrate 15mg PO BID  
Lisinopril 5mg PO daily  
Metoprolol 100mg PO daily  
Omeprazole 20mg PO daily  
Simvastatin 40mg PO daily  
Terazosin 1mg PO daily  
ASA 325mg PO daily  

 
Discharge Medications:
1. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Gabapentin 300 mg Capsule Sig: Three (3) Capsule PO BID (2 
times a day).  
3. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: 0.5 Tablet Sustained Release 24 hr PO BID (2 times a day).  

4. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Terazosin 1 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
9. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO every 6hours as needed as needed for pain.
Disp:*7 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Placement of intracardiac defibrillator

Secondary Diagnosis:
Severe neuropathy  
Prostate enlargement  
H. Pylori  
CABG: x5 in ___  
Dyslipidemia, 
Hypertension  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are being discharged from ___ 
___.  You were admitted to the hospital after you had a 
defibrillator placed.  You had some bleeding from the site and a 
pressure dressing was placed.  You were monitored overnight and 
your CXR and EKG in the morning looked good.  You are being 
discharged with follow up with your primary care doctor ___ Dr. 
___ in device clinic.

Please take you medications as prescribed.
 
Followup Instructions:
___